US08754101B2
trans-3-{[4-Fluoro-3-(trifluoromethyl)phenyl]oxy}-N-(imidazo[1,2-a]pyridin-8-ylmethyl)cyclobutanamine
1,1-Dimethylethyl(trans-3-{[4-fluoro-3-(trifluoromethyl)phenyl]oxy}cyclobutyl)(imidazo[1,2-a]pyridin-8-ylmethyl)carbamate (62 mg, 0.129 mmol) was stirred in 4M HCl in dioxane (5 mL, 20 mmol) for 3 hours when LCMS indicated the reaction to be complete. The mixture was loaded onto a SCX cartridge (2 g) and eluted with MeOH (3 column volumes) and flushed with ammonia in MeOH. The eluant was concentrated in vacuo to give slightly impure product which was dissolved in 50:50 DMSO/MeOH (1 mL) and purified by MDAP to give the title compound (16.8 mg).

reactant | 1,1-Dimethylethyl(trans-3-{[4-fluoro-3-(trifluoromethyl)phenyl]oxy}cyclobutyl)(imidazo[1,2-a]pyridin-8-ylmethyl)carbamate | 0.129 mmol, 62 mg | CC(C)(C)C(C=1C=2N(C=CC1)C=CN2)N(C([O-])=O)[C@@H]2C[C@H](C2)OC2=CC(=C(C=C2)F)C(F)(F)F
reactant | dioxane | 20 mmol, 5 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 4M | Cl | ClH
solvent | DMSO MeOH | 1 mL | CS(=O)C.CO
product | trans-3-{[4-Fluoro-3-(trifluoromethyl)phenyl]oxy}-N-(imidazo[1,2-a]pyridin-8-ylmethyl)cyclobutanamine | 16.8 mg | FC1=C(C=C(C=C1)O[C@@H]1C[C@H](C1)NCC=1C=2N(C=CC1)C=CN2)C(F)(F)F | C19H17F4N3O
